US04070366
Preparation of 2,4-Dimethyl-3-acetyl-5-n-Propyl-pyrrole
2,4-Dimethyl-3-acetyl-pyrrole (1.02 g), acetic acid (15 ml), aqueous hydriodic acid (25ml) and propionaldehyde (1.74g), were stirred at 25° C. three hours under nitrogen. The work up was the same as that of 2,3,4-trimethyl-5-carbethoxy-pyrrole in Example 4 except that 2 × 50 ml ether were used. Recrystallization from benzene gave the product 0.786 g (59%) m.p. 157°-158°C.

reactant | 2,4-Dimethyl-3-acetyl-pyrrole | 1.02 g | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | hydriodic acid | 25ml | I | HI
reactant | propionaldehyde | 1.74g | C(CC)=O | C3H6O
reactant | 2,3,4-trimethyl-5-carbethoxy-pyrrole | CC=1NC(=C(C1C)C)C(=O)OCC | C10H15NO2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2,4-Dimethyl-3-acetyl-5-n-Propyl-pyrrole | 0.786 g, 59% | CC=1NC(=C(C1C(C)=O)C)CCC | C11H17NO
